US04205085
Ethyl 2-{4-[15-(trifluoromethyl)pentadecylamino]benzoyl}acetoacetate
A solution of 21.6 g. of ethyl acetoacetate and 10 ml. of 1,2-dimethoxyethane is added to a suspension of 4.0 g. of sodium hydride in 1,2-dimethoxyethane under argon. A solution of 17.3 g. of 4-[15-(trifluoromethyl)pentadecylamino]benzoyl chloride hydrochloride in 1,2-dimethoxyethane is then added. The reaction mixture is refluxed for 5 hours, cooled, poured on ice and extracted with ether. The ether solution is washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to dryness. Recrystallization from ether affords the product as a white solid.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-[15-(trifluoromethyl)pentadecylamino]benzoyl chloride hydrochloride | Cl.FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1)(F)F
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | Ethyl 2-{4-[15-(trifluoromethyl)pentadecylamino]benzoyl}acetoacetate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)C(C(=O)OCC)C(=O)C)C=C1)(F)F | C29H44F3NO4
